US05905149
2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl] acetic acid ethyl ester.
To a solution of 3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindole (140 mg, 0.37 mmol) in acetone (10 ml) was added 2-bromoacetic acid ethyl ester (151 mg, 0.9 mmol) and anhydrous potassium carbonate (150 mg) and the reaction mixture was stirred for 8 h at 50° C. Then the mixture was concentrated under vacuum, the residue taken up with dichloromethane, the organic phase washed several times with water, dried and evaporated. The residue was crystallized from ethyl acetate to give 150 mg (87% yield) of title compound.

reactant | 3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindole | 0.37 mmol, 140 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC=NC12)C=C1C(NC2=CC=CC=C12)=O | C25H18N2O2
reactant | 2-bromoacetic acid ethyl ester | 0.9 mmol, 151 mg | C(C)OC(CBr)=O | C4H7BrO2
reactant | potassium carbonate | 150 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-[3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindol-1-yl] acetic acid ethyl ester | 150 mg, 87% yield | C(C)OC(CN1C(C(C2=CC=CC=C12)=CC1=C2C=CC=NC2=C(C=C1)OCC1=CC=CC=C1)=O)=O | C29H24N2O4
